US07163954B2
To a 0° C. solution of (6-benzo[b]thiophen-2-yl-1-bromo-naphthalen-2-yloxy)-acetic acid ethyl ester (3.0 g, 6.8 mmol) in chloroform (90 mL) was added valeryl chloride (0.97 mL, 8.2 mmol) and tin (IV) chloride (1.2 mL, 10 mmol). This reaction mixture was allowed to stir at ambient temperature for three hours. It was then refluxed for a total of 17.5 hours. During refluxing was added valeryl chloride (1.94 mL, 16.4 mmol) in two portions and tin (IV) chloride (2.4 mL, 20 mmol) in two portions. The reaction mixture was allowed to cool to ambient temperature. It was then poured into ice water and diluted with additional chloroform. The organic phase was washed with water and brine. It was then dried with anhydrous magnesium sulfate, filtered, and solvent evaporated. The residue was then purified several times by flash chromatography using (1) 20%–50% methylene chloride in hexane and 100% methylene chloride, (2) 100% hexane, 1–10% ethyl acetate in hexane and (3) 100% hexane and 5–40% 1,2-dichloroethane in hexane and 100% methylene chloride. Further purification was done by IPLC using 90% acetonitrile (0.1% formic acid) in water as the mobile system. Evaporating the solvent and extracting with ethyl acetate, washing with water and brine, drying with anhydrous magnesium sulfate, filtering, concentrating and drying in vacuo at 60° C. for 30 minutes yielded [1-bromo-6-(3-pentanoyl-benzo[b]thiophen-2-yl)-naphthalen-2-yloxy]-acetic acid ethyl ester as a clear, light brown gum (0.0979 g, 2.72%); 1H NMR (400 MHz, DMSO-d6): δ8.23 (d, 1H, J=8.81 Hz), 8.06–8.14 (m, 3H), 7.94–7.96 (m, 1H), 7.72 (dd, 1H, J=8.81 Hz and 1.79 Hz), 7.44–7.52 (m, 3H), 5.11 (s, 2H), 4.19 (q, 2H, J=7.11 Hz), 2.37 (t, 2H, J=7.30 Hz), 1.18–1.20 (m, 2H), 1.38–1.45 (m, 2H), 0.9–1.05 (m, 3H), 0.56 ppm (t, 3H, J=7.37 Hz).

reactant | (6-benzo[b]thiophen-2-yl-1-bromo-naphthalen-2-yloxy)-acetic acid ethyl ester | 6.8 mmol, 3.0 g | C(C)OC(COC1=C(C2=CC=C(C=C2C=C1)C1=CC2=C(S1)C=CC=C2)Br)=O | C22H17BrO3S
reactant | valeryl chloride | 8.2 mmol, 0.97 mL | C(CCCC)(=O)Cl | C5H9ClO
reactant | tin (IV) chloride | 10 mmol, 1.2 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | valeryl chloride | 16.4 mmol, 1.94 mL | C(CCCC)(=O)Cl | C5H9ClO
reactant | tin (IV) chloride | 20 mmol, 2.4 mL | [Sn](Cl)(Cl)(Cl)Cl
solvent | chloroform | 90 mL | C(Cl)(Cl)Cl | CHCl3
product | [1-bromo-6-(3-pentanoyl-benzo[b]thiophen-2-yl)-naphthalen-2-yloxy]-acetic acid ethyl ester | C(C)OC(COC1=C(C2=CC=C(C=C2C=C1)C1=C(C2=C(S1)C=CC=C2)C(CCCC)=O)Br)=O | C27H25BrO4S
